US08859493B2
(S)-2-[3-(2-{2-[2-(7-tert-Butoxycarbonylheptanoylamino)ethoxy]ethoxy}-ethylcarbamoyl)propionylamino]pentanedioic acid 5-tert-butyl ester 1-(2,5-dioxopyrrolidin-1-yl) ester
(S)-2-[3-(2-{2-[2-(7-tert-Butoxycarbonylheptanoylamino)ethoxy]ethoxy}-ethylcarbamoyl)propionylamino]pentanedioic acid 1-tert-butyl ester (0.6 g, 0.93 mmol) was activated with TSTU using the procedure described above.

reactant | (S)-2-[3-(2-{2-[2-(7-tert-Butoxycarbonylheptanoylamino)ethoxy]ethoxy}-ethylcarbamoyl)propionylamino]pentanedioic acid 1-tert-butyl ester | 0.93 mmol, 0.6 g | C(C)(C)(C)OC([C@H](CCC(=O)O)NC(CCC(NCCOCCOCCNC(CCCCCCC(=O)OC(C)(C)C)=O)=O)=O)=O | C31H55N3O11
reactant | TSTU | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
product | (S)-2-[3-(2-{2-[2-(7-tert-Butoxycarbonylheptanoylamino)ethoxy]ethoxy}-ethylcarbamoyl)propionylamino]pentanedioic acid 5-tert-butyl ester 1-(2,5-dioxopyrrolidin-1-yl) ester | O=C1N(C(CC1)=O)OC([C@H](CCC(=O)OC(C)(C)C)NC(CCC(NCCOCCOCCNC(CCCCCCC(=O)OC(C)(C)C)=O)=O)=O)=O | C35H58N4O13
